US06241964B1
Step 4: 4-(5-Trifluoromethyl-tetrazol-1-yl)-phenol
A solution of 129 g (0.40 mol) of 1-(4-benzyloxyphenyl)-5-trifluoromethyl-1H-tetrazole in 900 mL 1:2 THF/ethanol was hydrogenated at ambient temperature over 6 g 10% Pd/C at 45 psi hydrogen for 12 h. The catalyst was removed by filtration through Celite®, the cake washed with ethanol, and the filtrate concentrated. The product was dissolved in ether, filtered through magnesium sulfate and concentrated. During concentration the product began to crystallize, as the product crystallized the mixture was flushed with hexanes to remove the ether. The resulting slurry was cooled to 0° C., aged 1 hr, filtered, and the cake washed with hexanes. The yield upon drying was 84.8 g (91.5%) of white crystalline 4-(5-trifluoromethyl-tetrazol-1-yl)-phenol: 1H NMR (CDCl3) δ 5.6 (s, 1H), 7.07 (m, 2H), 7.35 (m, 2H). MS (EI) m/z 230. Anal. Calcd for C8H5F3N4O: C, 41.75; H, 2.19; F, 24.76; N, 24.34. Found: C, 41.76; H, 2.23; F, 24.53; N, 24.42. KF <0.1%.

reactant | 1-(4-benzyloxyphenyl)-5-trifluoromethyl-1H-tetrazole | 0.40 mol, 129 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=NN=C1C(F)(F)F | C15H11F3N4O
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 6 g | [Pd] | Pd
solvent | THF ethanol | C1CCOC1.C(C)O
product | 4-(5-Trifluoromethyl-tetrazol-1-yl)-phenol | FC(C1=NN=NN1C1=CC=C(C=C1)O)(F)F | C8H5F3N4O
